Vdd    (vdd! gnd!)   vsource dc=1.2
V_Read (V_Read gnd!) vsource dc=1.2
V_RW   (RW gnd!)     vsource type=pwl wave=\[
+ 0    0
+ 500p 0
+ 510p 1.2
+ 1000p 1.2
+ 1010p 0
+ 1500p 0
+ 1510p 1.2
+ 2000p 1.2
+ 2010p 0
+ 2500p 0
+ \]
