Vdd    (vdd! gnd!)   vsource dc=1.2
V_Read (V_Read gnd!) vsource dc=1.2
V_RW   (RW gnd!)     vsource type=pwl wave=\[
+ 0    0
+ 200p 0
+ 210p 1.2
+ 400p 1.2
+ 410p 0
+ 600p 0
+ 610p 1.2
+ 800p 1.2
+ 810p 0
+ 1000p 0
+ 1010p 1.2
+ 1200p 1.2
+ 1210p 0
+ 1400p 0
+ 1410p 1.2
+ 1600p 1.2
+ 1610p 0
+ \]
